US08648201B2
150 mg (0.605 mmol) of 2-amino-5-iodopyridine-3-carbaldehyde and 115 mg (0.605 mmol) of potassium 3-thiophenetrifluoroborate are suspended in 4 ml of ethanol in a nitrogen-filled reaction vessel, and 251 μl (1.814 mmol) of triethylamine and 22.1 mg (0.030 mmol) of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride are added. The reaction mixture is stirred at 80° C. for 14 h under a nitrogen protective atmosphere. The reaction mixture is cooled to room temperature and diluted with water/ethyl acetate and filtered off. The organic phase is separated, and the aqueous phase is extracted a further 2× with ethyl acetate. The combined organic phases are dried over sodium sulfate, filtered, and the solvent is removed, giving 2-amino-5-thiophen-3-ylpyridine-3-carbaldehyde; HPLC-MS [M+H]+ 205.2.

reactant | 2-amino-5-iodopyridine-3-carbaldehyde | 0.605 mmol, 150 mg | NC1=NC=C(C=C1C=O)I | C6H5IN2O
reactant | potassium 3-thiophenetrifluoroborate | 0.605 mmol, 115 mg | [B-](C1=CSC=C1)(F)(F)F.[K+]
reactant | triethylamine | 1.814 mmol, 251 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water ethyl acetate | O.C(C)(=O)OCC
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 0.030 mmol, 22.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-amino-5-thiophen-3-ylpyridine-3-carbaldehyde | NC1=NC=C(C=C1C=O)C1=CSC=C1 | C10H8N2OS
